US06794395B1
(61) 3-(Z)-{1-[4-(dimethylaminomethyl)-anilino]-1-phenyl-methylidene}-6-(2-tolyl)-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-(2-tolyl)-2-indolinone and 4-(dimethylaminomethyl)-aniline

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-6-(2-tolyl)-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C1=C(C=CC=C1)C)=C(C1=CC=CC=C1)OCC)=O | C26H23NO3
reactant | 4-(dimethylaminomethyl)-aniline | CN(C)CC1=CC=C(N)C=C1 | C9H14N2
product | 3-(Z)-{1-[4-(dimethylaminomethyl)-anilino]-1-phenyl-methylidene}-6-(2-tolyl)-2-indolinone | CN(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C2=C(C=CC=C2)C)=O)C=C1 | C31H29N3O
